US08703758B2
methyl [(1S)-2-({1-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)-1-methylethyl]carbamate
By a method similar to Example 17, and using tert-butyl [(1S)-2-({1-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)-1-methylethyl]carbamate and methyl chlorocarbonate, the title compound was obtained.

reactant | tert-butyl [(1S)-2-({1-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)-1-methylethyl]carbamate | C1(CC1)COC1=CC2=C(N=C(O2)N2CCC(CC2)OC[C@H](C)NC(OC(C)(C)C)=O)C=C1 | C24H35N3O5
reactant | methyl chlorocarbonate | C(OC)(=O)Cl | C2H3ClO2
product | methyl [(1S)-2-({1-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)-1-methylethyl]carbamate | C1(CC1)COC1=CC2=C(N=C(O2)N2CCC(CC2)OC[C@H](C)NC(OC)=O)C=C1 | C21H29N3O5
